US07595398B2
Hydrolysis of (S)-2-[4-(5-Methoxycarbonyl-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (0.350 g, 0.77 mmol) with NaOH (1M, 2 mL, 2 mmol) gave (S)-2-[4-(5-Carboxy-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester; MS: 442.1 (M+H+).

reactant | (S)-2-[4-(5-Methoxycarbonyl-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.77 mmol, 0.350 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1SC=C(N1)C=1OC(=CC1)C(=O)OC)=O | C22H21N3O6S
reactant | NaOH | 2 mmol, 1M, 2 mL | [OH-].[Na+]
product | (S)-2-[4-(5-Carboxy-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1SC=C(N1)C=1OC(=CC1)C(=O)O)=O | C21H19N3O6S
